US05104892
Step 4) Preparation of N-[4-(3-Iodo-1-propyloxy)phenyl]methanesulfonamide
A solution of N-[4-(3-chloro-1-propyloxy)phenyl]methanesulfonamide (1.03 g, 3.90 mmol) and sodium iodide (1.75 g, 11.70 mmol) in acetone (15 mL) was heated under reflux for 18 hours. The mixture was concentrated, taken up in EtOAc, and washed with brine, 10% aqueous sodium bisulfite, and brine. The organic phase was dried (MgSO4) and concentrated to give 1.34 g (96%) of product as an off-white solid m.p. 109°-111° C.

reactant | N-[4-(3-chloro-1-propyloxy)phenyl]methanesulfonamide | 3.90 mmol, 1.03 g | ClCCCOC1=CC=C(C=C1)NS(=O)(=O)C | C10H14ClNO3S
reactant | sodium iodide | 11.70 mmol, 1.75 g | [I-].[Na+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | N-[4-(3-Iodo-1-propyloxy)phenyl]methanesulfonamide | 1.34 g, 96% | ICCCOC1=CC=C(C=C1)NS(=O)(=O)C | C10H14INO3S
